US09255107B2
3-((1H-pyrrolo[2,3-b]pyrazin-5-yl)ethynyl)-4-methyl-N-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]benzamide hydrochloride
The compound (3-((1H-pyrrolo[2,3-b]pyrazin-5-yl)ethynyl)-4-methyl-N-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]benzamide) (30 mg) prepared in Example 3 was weighed, dissolved in 5 ml methanol, and a solution of hydrogen chloride in ethyl acetate was added dropwise to a pH of about 3. The mixture was stirred at room temperature for 3 hours. The volatiles were evaporated under reduced pressure, and the residue was dried under vacuum at 50° C. for 5 hours, to give the title compound.

reactant | 3-((1H-pyrrolo[2,3-b]pyrazin-5-yl)ethynyl)-4-methyl-N-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]benzamide | N1C2=C(N=CC1)N(C=C2)C#CC=2C=C(C(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)C=CC2C | C29H29F3N6O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-((1H-pyrrolo[2,3-b]pyrazin-5-yl)ethynyl)-4-methyl-N-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]benzamide hydrochloride | Cl.N1C2=C(N=CC1)N(C=C2)C#CC=2C=C(C(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)C=CC2C | InChI=1S/C29H29F3N6O.ClH/c1-20-3-4-22(17-21(20)7-11-38-12-8-26-27(38)34-10-9-33-26)28(39)35-24-6-5-23(25(18-24)29(30,31)32)19-37-15-13-36(2)14-16-37;/h3-6,8,10,12,17-18,33H,9,13-16,19H2,1-2H3,(H,35,39);1H
